US07157488B2
N-Dibenzofuran-3-ylamine
Combine 3-nitrodibenzofuran (22.0 g, 0.1 mol) and Raney nickel (2.75 g), and ethanol (365 ml) and hydrogenate at room temperature and 40 psi (276 kPa). After 18 hours, filter and concentrate the filtrate to residue. Chromatograph the residue eluting with 9:1 hexane:EtOAc to give the title compound.

reactant | 3-nitrodibenzofuran | 0.1 mol, 22.0 g | [N+](=O)([O-])C=1C=CC2=C(OC3=C2C=CC=C3)C1 | C12H7NO3
catalyst | Raney nickel | 2.75 g | [Ni] | Ni
solvent | ethanol | 365 ml | C(C)O | C2H6O
product | N-Dibenzofuran-3-ylamine | C1=CC(=CC=2OC3=C(C21)C=CC=C3)N | C12H9NO
